* C:\Nerd Projects\ChuaEncrypt\Simulations\LTSpice\Chua.asc
* Generated by LTspice 24.1.10 for Windows.
X§U1 y2 N015 +Vcc -Vcc N013 ADTL082 ;§pnba In+)In-)V+)V-)OUT
X§U2 N021 N015 +Vcc -Vcc z2 ADTL082 ;§pnba In+)In-)V+)V-)OUT
X§U3 x2 N017 +Vcc -Vcc N009 ADTL082 ;§pnba In+)In-)V+)V-)OUT
X§U4 x2 N018 +Vcc -Vcc N010 ADTL082 ;§pnba In+)In-)V+)V-)OUT
X§U5 x2 Chua_Out_2 +Vcc -Vcc Chua_Out_2 ADTL082 ;§pnba In+)In-)V+)V-)OUT
R1 x2 N009 220 tol=1
R2 N009 N017 220 tol=1
R3 N017 0 2.2k
R4 N010 x2 22k tol=1
R5 N010 N018 22k tol=1
R7 y2 z2 100 tol=1
R8 z2 N015 1k tol=1
R9 N015 N013 1k tol=1
C1 x2 0 10nF
C3 N013 N021 100nF
R10 N021 0 2k tol=1
R11 x2 y2 2k tol=1
C2 y2 0 100nF
C4 +Vcc 0 .1µ
V1 -Vcc 0 -9v
C5 -Vcc 0 .1µ
V2 +Vcc 0 9v
R6 N018 0 3.3k
X§U6 y N016 +Vcc -Vcc N014 ADTL082 ;§pnba In+)In-)V+)V-)OUT
X§U7 N022 N016 +Vcc -Vcc z ADTL082 ;§pnba In+)In-)V+)V-)OUT
X§U8 x N019 +Vcc -Vcc N011 ADTL082 ;§pnba In+)In-)V+)V-)OUT
X§U9 x N020 +Vcc -Vcc N012 ADTL082 ;§pnba In+)In-)V+)V-)OUT
X§U10 x Chua_Out +Vcc -Vcc Chua_Out ADTL082 ;§pnba In+)In-)V+)V-)OUT
R12 x N011 220 tol=1
R13 N011 N019 220 tol=1
R14 N019 0 2.2k
R15 N012 x 22k tol=1
R16 N012 N020 22k tol=1
R17 y z 100 tol=1
R18 z N016 1k tol=1
R19 N016 N014 1k tol=1
C6 x 0 10nF
C7 N014 N022 100nF
R20 N022 0 2.5k tol=1
R21 x y 2k tol=1
C8 y 0 100nF
R22 N020 0 3.3k
X§U11 x N008 +Vcc -Vcc N008 ADTL082 ;§pnba In+)In-)V+)V-)OUT
R23 x2 N008 2.2k
X§U12 0 N005 +Vcc -Vcc N006 ADTL084 ;§pnba In+)In-)V+)V-)OUT
X§U13 N007 N004 +Vcc -Vcc Decrypt ADTL084 ;§pnba In+)In-)V+)V-)OUT
X§U14 0 N001 +Vcc -Vcc N002 ADTL084 ;§pnba In+)In-)V+)V-)OUT
R24 N006 N005 10k
R25 N005 N003 10k
R26 N005 Chua_Out 10k
R27 Decrypt N004 10k
R28 N007 N006 10k
R29 N002 N001 10k
R30 N001 Chua_Out_2 10k
R31 N002 N004 10k
R32 N007 0 10k
V3 N003 0 SINE(0 1 1k)
.tran 0 10 0 .001
.step param X 100 2.5k 300
.lib ADI.lib
.lib ADTL084.lib
.backanno
.end
